US08084448B2
D. 5-[2-Hydroxy-4-((S)-5-oxopyrrolidin-2-ylmethyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one
To a solution of 5-[2-benzyloxy-4-((S)-5-oxopyrrolidin-2-ylmethyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one (0.017 g, 0.041 mmol) in EtOH/H2O (1:1, 10 mL) is added 10% Pd/C (0.010 g). The mixture is stirred under an atmosphere of H2 for 2 h at RT. The catalyst is filtered through Celite and is washed with EtOH. The solvent is evaporated off to the title compound. 1H NMR (DMSO-d6) δ 7.16 (d, J=8 Hz, 1H), 6.53 is, 1H), 6.36 (d, J=5.81 Hz, 1H), 4.08 (s, 2H), 2.42 (m, 2H), 2.07 (t, J=6.57 Hz, 2H), 1.51 (m, 3H); HPLC retention time=0.55 min (method A). (M−H)−=326.

reactant | 5-[2-benzyloxy-4-((S)-5-oxopyrrolidin-2-ylmethyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.041 mmol, 0.017 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C[C@H]1NC(CC1)=O)N1CC(NS1(=O)=O)=O | C20H21N3O5S
solvent | EtOH H2O | 10 mL | CCO.O
catalyst | Pd/C | 0.010 g | [Pd] | Pd
product | 5-[2-Hydroxy-4-((S)-5-oxopyrrolidin-2-ylmethyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | OC1=C(C=CC(=C1)C[C@H]1NC(CC1)=O)N1CC(NS1(=O)=O)=O | C13H15N3O5S
